US08357707B2
Stage F.1: (S)-2-Methyl-pyrrolidine-2-carboxylic acid butyl ester
Concentrated HCl (2 ml) was added to a suspension of (S)-2-methyl-pyrrolidine-2-carboxylic acid (2 g) in butan-1-ol (50 ml) which was heated at 60° C. for 18 h then at reflux for 4 days. The RM was evaporated, partitioned between saturated aqueous NaHCO3 and DCM, extracted 3× with DCM, dried over Na2SO4 and evaporated. The isolated oil was then kugelrohr distilled at 10 mbar to give the title compound as a clear colorless oil from the fraction distilling at an oven temperature of 100-120° C.

reactant | HCl | 2 ml | Cl | ClH
reactant | (S)-2-methyl-pyrrolidine-2-carboxylic acid | 2 g | C[C@@]1(NCCC1)C(=O)O | C6H11NO2
solvent | butan-1-ol | 50 ml | C(CCC)O | C4H10O
product | (S)-2-Methyl-pyrrolidine-2-carboxylic acid butyl ester | C(CCC)OC(=O)[C@]1(NCCC1)C | C10H19NO2
